US06576762B2
N-[6-(Acetyl-methyl-amino)-4-o-tolyl-pyridin-3-yl]-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide
To a solution of 60 mg (0.11 mmol) N-(6-acetylamino-4-o-tolyl-pyridin-3-yl)-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide in 2 ml tetrahydrofuran at room temperature under argon were added dropwise 0.13 ml (0.12 mmol) of a 1 M solution of potassium hexamethyldisilazide in tetrahydrofuran. Stirring was continued for 1 h at room temperature and 17 mg (0.12 mmol) methyl iodide were added. After stirring overnight, the solvent was evaporated and the residue was purified by flash-chromatography to give 40 mg (65%) of the title compound as white foam.

reactant | N-(6-acetylamino-4-o-tolyl-pyridin-3-yl)-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide | 0.11 mmol, 60 mg | C(C)(=O)NC1=CC(=C(C=N1)N(C(C(C)(C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)C1=C(C=CC=C1)C | C27H25F6N3O2
reactant | potassium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[K+]
reactant | methyl iodide | 0.12 mmol, 17 mg | CI | CH3I
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | N-[6-(Acetyl-methyl-amino)-4-o-tolyl-pyridin-3-yl]-2-(3,5-bis-trifluoromethyl-phenyl)-N-methyl-isobutyramide | 40 mg, 65% | C(C)(=O)N(C1=CC(=C(C=N1)N(C(C(C)(C)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)C)C1=C(C=CC=C1)C)C | C28H27F6N3O2
